US04610981
N-[3-(1H-1,2,4-Triazol-1-yl)propyl]benzenesulfonamide
To a stirred mixture of 1.26 g of 1H-1,2,4-triazole-1-propanamine in 30 ml of dichloromethane containing an excess of saturated sodium bicarbonate solution was added, all at once at room temperature, a solution of 1.27 ml of benzenesulfonyl chloride in 15 ml of dichloromethane. The mixture was stirred at room temperature for 16 hours. The layers were separated. The dichloromethane layer was evaporated in vacuo and gave the compound of the Example as a colorless oil.

reactant | 1H-1,2,4-triazole-1-propanamine | 1.26 g | N1(N=CN=C1)CCCN | C5H10N4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | benzenesulfonyl chloride | 1.27 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-[3-(1H-1,2,4-Triazol-1-yl)propyl]benzenesulfonamide | N1(N=CN=C1)CCCNS(=O)(=O)C1=CC=CC=C1 | C11H14N4O2S
